US05216018
A mixture of 2.05 g of 5,6,7,8-tetrahydroisoquinoline, 4.30 g of 2-bromoethylbenzene, and 5 mL of dimethylformamide was stirred in a 75°-80° oil bath for 4 hours. The solvent was removed under vacuum, the residue was dissolved in 4 mL of acetonitrile and 8 mL of 1-chlorobutane were added. The precipitate was collected after 1 hour to give 3.28 g of 2-phenethyl-5,6,7,8-tetrahydroisoquinolinium bromide.

reactant | 5,6,7,8-tetrahydroisoquinoline | 2.05 g | C1=NC=CC=2CCCCC12 | C9H11N
reactant | 2-bromoethylbenzene | 4.30 g | BrCCC1=CC=CC=C1 | C8H9Br
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-phenethyl-5,6,7,8-tetrahydroisoquinolinium bromide | 3.28 g | [Br-].C(CC1=CC=CC=C1)[N+]1=CC=2CCCCC2C=C1 | InChI=1S/C17H20N.BrH/c1-2-6-15(7-3-1)10-12-18-13-11-16-8-4-5-9-17(16)14-18;/h1-3,6-7,11,13-14H,4-5,8-10,12H2;1H/q+1;/p-1
